US07320973B2
(R)-3-Chloro-5,11-dihydro-5-[1-(4-dimethylaminophenethyl)pyrrolidin-2-ylmethyl]dibenzo[b,e][1,4]oxazepine dihydrochloride
(R)-3-Chloro-5,11-dihydro-5-[1-(4-dimethylaminophenethyl)pyrrolidin-2-ylmethyl]dibenzo[b,e][1,4]oxazepine (306 mg, 0.662 mmol) was dissolved in 6.0 ml of a mixed solvent of ethyl acetate and ethanol (2:1). 2 M hydrogen chloride/ether (0.73 ml, 1.46 mmol) was added to the obtained solution. 2.0 ml of ethyl acetate was added to the mixture and they were stirred at room temperature. After leaving the reaction mixture to stand at room temperature for 2 days followed by the filtration and drying, the title compound was obtained in the form of white crystals (96%).

reactant | (R)-3-Chloro-5,11-dihydro-5-[1-(4-dimethylaminophenethyl)pyrrolidin-2-ylmethyl]dibenzo[b,e][1,4]oxazepine | 0.662 mmol, 306 mg | ClC=1C=CC2=C(N(C3=C(OC2)C=CC=C3)C[C@@H]3N(CCC3)CCC3=CC=C(C=C3)N(C)C)C1 | C28H32ClN3O
reactant | hydrogen chloride ether | 1.46 mmol, 2 M, 0.73 ml | Cl.CCOCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | C(C)O | C2H6O
solvent | ethyl acetate | 2.0 ml | C(C)(=O)OCC | C4H8O2
product | (R)-3-Chloro-5,11-dihydro-5-[1-(4-dimethylaminophenethyl)pyrrolidin-2-ylmethyl]dibenzo[b,e][1,4]oxazepine dihydrochloride | Cl.Cl.ClC=1C=CC2=C(N(C3=C(OC2)C=CC=C3)C[C@@H]3N(CCC3)CCC3=CC=C(C=C3)N(C)C)C1 | InChI=1S/C28H32ClN3O.2ClH/c1-30(2)24-13-9-21(10-14-24)15-17-31-16-5-6-25(31)19-32-26-7-3-4-8-28(26)33-20-22-11-12-23(29)18-27(22)32;;/h3-4,7-14,18,25H,5-6,15-17,19-20H2,1-2H3;2*1H/t25-;;/m1../s1
